US05808062
4-Hydroxy-6-(2-phenylethyl)-3-[(phenylmethyl)thio]-2H-pyran-2-one:
The title compound was prepared by Method A using 4-phenethylacetophenone (0.786 g, 5.31 mmol), lithium bis(trimethylsilyl)amide (0.977 g, 5.84 mmol), chlorotrimethylsilane (0.741 mL, 5.84 mmol), THF (58 mL), and diethyl ester of [(phenylmethyl)thio]propanedioic acid (1.00 g, 3.54 mmol). m.p. 164°-166° C.; 1H NMR (400 MHz, DMSO-d6) δ 2.75 (t, 3 H), 2.85 (t, 2 H), 3.92 (s, 2 H), 5.92 (s, 1 H), 7.23 (m, 9H), 11.69 (bs, 1 H).

reactant | lithium bis(trimethylsilyl)amide | 5.84 mmol, 0.977 g | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | chlorotrimethylsilane | 5.84 mmol, 0.741 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | [(phenylmethyl)thio]propanedioic acid | 3.54 mmol, 1.00 g | C1(=CC=CC=C1)CSC(C(=O)O)C(=O)O | C10H10O4S
reactant | THF | 58 mL | C1CCOC1 | C4H8O
product | 4-Hydroxy-6-(2-phenylethyl)-3-[(phenylmethyl)thio]-2H-pyran-2-one | OC1=C(C(OC(=C1)CCC1=CC=CC=C1)=O)SCC1=CC=CC=C1 | C20H18O3S
